US07935696B2
N-(5-(Cyclopropylcarbamoyl)-2-methylphenyl)-3-methyl-4-(pyridin-3-yl)thiophene-2-carboxamide
The title compound was prepared by coupling 4-bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)-3-methylthiophene-2-carboxamide with commercially available 3-pyridylboronic acid using the method described in Step B of Example 136 to afford a white solid (Example 198). HPLC Ret time=1.98 min. LCMS [M+H]+ 392.29.

reactant | 4-bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)-3-methylthiophene-2-carboxamide | BrC=1C(=C(SC1)C(=O)NC1=C(C=CC(=C1)C(NC1CC1)=O)C)C | C17H17BrN2O2S
reactant | 3-pyridylboronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | N-(5-(Cyclopropylcarbamoyl)-2-methylphenyl)-3-methyl-4-(pyridin-3-yl)thiophene-2-carboxamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(=O)C=1SC=C(C1C)C=1C=NC=CC1)C | C22H21N3O2S
